US07897597B2
(2-Amino-2-methylpropyl)(6-benzyloxy-3-nitroquinolin-4-yl)amine (24.33 g, 66.4 mmol) was stirred in 400 mL of THF and sodium hydroxide (2.92 g in 100 mL of water) was added. Next, 17.40 g of di-tert-butyl dicarbonate in 100 mL of THF was added dropwise and the reaction was stirred overnight at ambient temperature. The THF was removed under reduced pressure and dichloromethane and water were added. The organic fraction was separated from the aqueous fraction. The organic fraction was then sequentially washed with water followed by brine; dried over sodium sulfate and magnesium sulfate; filtered; and concentrated under reduced pressure to yield 31.05 g of crude tert-butyl [2-(6-benzyloxy-3-nitroquinolin-4-ylamino)-1,1-dimethylethyl]carbamate as a brown foam.

reactant | (2-Amino-2-methylpropyl)(6-benzyloxy-3-nitroquinolin-4-yl)amine | 66.4 mmol, 24.33 g | NC(CNC1=C(C=NC2=CC=C(C=C12)OCC1=CC=CC=C1)[N+](=O)[O-])(C)C | C20H22N4O3
reactant | sodium hydroxide | 100 mL, 2.92 g | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 17.40 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-butyl [2-(6-benzyloxy-3-nitroquinolin-4-ylamino)-1,1-dimethylethyl]carbamate | 31.05 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])NCC(C)(C)NC(OC(C)(C)C)=O | C25H30N4O5
